US04618683
1-Cyano-3-(3-methoxyphenyl)-propane
A solution of 1-tosyloxy-3-(3-methoxyphenyl)propane (125 g, 0.39 mole) and DMF (400 mL) was stirred at 0° as a solution of KCN (30 g, 0.46 mole) and water (70 mL) was added dropwise. The reaction mixture was stirred at 65°-70° for 1 hour, was cooled to room temperature and poured onto ice water. The solution was extracted with ether. The extracts were washed with water, saturated aqueous NaCl, dried (MgSO4), filtered, and evaporated to yield 62 g yellow oil, (91%), M+ 175.

reactant | 1-tosyloxy-3-(3-methoxyphenyl)propane | 0.39 mole, 125 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCCCC1=CC(=CC=C1)OC | C17H20O4S
reactant | DMF | 400 mL | CN(C)C=O | C3H7NO
reactant | KCN | 0.46 mole, 30 g | [C-]#N.[K+]
solvent | water | 70 mL | O | H2O
product | 1-Cyano-3-(3-methoxyphenyl)-propane | 62 g, 91% | C(#N)CCCC1=CC(=CC=C1)OC | C11H13NO
